US06498251B1
Synthesis Example 35c 5-t-Butoxycarbonyl-2-methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine
5-t-Butoxycarbonyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine (330 mg, 1.4 mmol) was dissolved in anhydrous tetrahydrofuran (18 ml), n-butyl lithium hexane solution (3.0 mmol) was added dropwise to the solution which was cooled in an ice bath, and then the mixture was stirred for 1 hour. This was further mixed with methyl iodide (430 mg, 3.0 mmol), and the stirring was continued while increasing the reaction temperature to room temperature spending 2 hours. The reaction solution was mixed with water and the reaction product was extracted therefrom with ethyl acetate. The organic layer was washed with saturated brine and dried with anhydrous magnesium sulfate, and then the solvent was removed by evaporation under a reduced pressure and the thus obtained material was separated and purified by a silica gel column chromatography to obtain 110 mg (0.42 mmol, 31% in yield) of the title compound.

reactant | 5-t-Butoxycarbonyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | 1.4 mmol, 330 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC=C2 | C12H17NO2S
reactant | n-butyl lithium hexane | 3.0 mmol | CCCCCC.C(CCC)[Li]
reactant | methyl iodide | 3.0 mmol, 430 mg | CI | CH3I
reactant | water | O | H2O
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
product | 5-t-Butoxycarbonyl-2-methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)C | C13H19NO2S
